US04929637
4-(1-Methoxyethyl)-5-methylthiothiophene-2-sulfonamide
To a stirred solution of 4-[1-(methoxyethoxymethoxy)ethyl]-5-methylthiothiophene-2-sulfonamide (6.8 g, 0.02 mol) in methanol (25 ml) was added dropwise 50% (by volume) cold sulfuric acid (50 ml) over a 10 minute period. The solution was stirred for an additional 1/2 hour at room temperature and the mixture was basified with NaHCO3 with cooling. The gum which separated was extracted into ethyl acetate. The aqueous layer was concentrated to dryness in vacuo and the solid residue was extracted with hot ethyl acetate. The ethyl acetate extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give an amber liquid which was purified by chromatography on silica gel (100 g) using ethyl acetate (40%)/hexane (60%). There was recovered 1.9 g (36%) of white solid, m.p. 86-94° C.

reactant | 4-[1-(methoxyethoxymethoxy)ethyl]-5-methylthiothiophene-2-sulfonamide | 0.02 mol, 6.8 g | COCCOCOC(C)C=1C=C(SC1C)S(=O)(=S)N | C11H19NO4S3
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 4-(1-Methoxyethyl)-5-methylthiothiophene-2-sulfonamide | COC(C)C=1C=C(SC1C)S(=O)(=S)N | C8H13NO2S3
